US07176216B2
Sodium hydride (60% in oil; 24.6 mg) was added to a solution of tert-butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)carbamate (140 mg) in N,N-dimethylformamide (10 mL) at room temperature and the reaction mixture was stirred for 30 minutes. (Bromomethyl)cyclopropane (0.06 mL) was added thereto at the same temperature, and the reaction mixture was stirred for 1 hour at 60° C. After completion of the reaction, the reaction mixture was gradually added to ice, extraction was performed with ethyl acetate, the organic extract was washed with water and brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure to afford a crude product of tert-butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylcarbamate.

reactant | Sodium hydride | 24.6 mg | [H-].[Na+]
reactant | tert-butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)carbamate | 140 mg | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)OC | C13H16BrN3O3
reactant | (Bromomethyl)cyclopropane | 0.06 mL | BrCC1CC1 | C4H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | tert-butyl N-(7-bromo-2-methoxypyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylcarbamate | BrC1=CC=CC=2N1N=C(C2N(C(OC(C)(C)C)=O)CC2CC2)OC | C17H22BrN3O3
